US04950666
With stirring 3.7 ml (0.05 mole) of thionyl chloride was added dropwise to 5.2 grams (0.022 mole) of 12,12-difluoro-11-dodecenoic acid. Upon completion of addition the reaction mixture stirred at ambient temperature for 16 hours, and then it was heated to 70° C. to remove the excess thionyl chloride under reduced pressure. The residual 12,12-difluoro-11-dodecenoic acid chloride was dissolved in 50 ml of toluene, and, in turn, 0.1 gram (catalyst) of 4-dimethylaminopyridine (DMAP), 3.2 grams (0.025 mole) of 2-chloroaniline, and 2.2 grams (0.022 mole) of triethylamine were added. Upon completion of addition the reaction mixture was stirred at ambient temperature for 60 hours. After this time the reaction mixture was shaken with 50 ml of water and 100 ml of diethyl ether. The water layer was removed, and the ether layer was in turn washed with 25 ml of aqueous 0.1N hydrochloric acid, 25 ml of water, 25 ml of an aqueous solution saturated with sodium bicarbonate, 25 ml of water, and 25 ml of an aqueous solution saturated with sodium chloride. The ether layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was recrystallized from ethanolwater yielding, in two crops, 5.7 grams of N-(2-chlorophenyl)-12,12-difluoro-11-dodecenamide; m.p. 54°-55° C. The nmr spectrum was consistent with the proposed structure.

reactant | thionyl chloride | 0.05 mole, 3.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 12,12-difluoro-11-dodecenoic acid | 0.022 mole, 5.2 grams | FC(=CCCCCCCCCCC(=O)O)F | C12H20F2O2
reactant | 2-chloroaniline | 0.025 mole, 3.2 grams | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | triethylamine | 0.022 mole, 2.2 grams | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.1 gram | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
product | N-(2-chlorophenyl)-12,12-difluoro-11-dodecenamide | 5.7 grams | ClC1=C(C=CC=C1)NC(CCCCCCCCCC=C(F)F)=O | C18H24ClF2NO
